US04178460
A. Preparation of 4-Trifluoromethoxybenzyl chloride
A mixture of trioxane (355 mg), zinc chloride (340 mg) and trifluoromethoxybenzene (600 mg) is heated at 73° C. while hydrogen chloride gas is bubbled through the reaction mixture. The reaction is cooled to room temperature and diluted with ether. The organic phase is washed with saturated sodium carbonate solution and water. Removal of the solvents gives the product as a colorless liquid (1.42 g).

reactant | trioxane | 355 mg | O1OOCCC1 | C3H6O3
reactant | trifluoromethoxybenzene | 600 mg | FC(OC1=CC=CC=C1)(F)F | C7H5F3O
reactant | hydrogen chloride | Cl | ClH
catalyst | zinc chloride | 340 mg | [Cl-].[Zn+2].[Cl-]
product | 4-Trifluoromethoxybenzyl chloride | 1.42 g | FC(OC1=CC=C(CCl)C=C1)(F)F | C8H6ClF3O
